US20010021710A1
(±)-cis-7-Hydroxy-3-(4-phenyl-phenyl)-4-(4-(2-pyrrolidinoethoxy)phenyl)chromane
In an manner analogous to that described in step 5 for Example 7, (±)-cis-7-methoxy-3-(4-phenyl-phenyl)-4-(4-(2-pyrrolidinoethoxy)phenyl)chromane (0.202 g, 0.399 mmol) was de-methylated by heating with pyridine hydrochloride to give the title compound as an off-white solid.

reactant | (±)-cis-7-methoxy-3-(4-phenyl-phenyl)-4-(4-(2-pyrrolidinoethoxy)phenyl)chromane | 0.399 mmol, 0.202 g | COC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCCC1 | C34H35NO3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | (±)-cis-7-Hydroxy-3-(4-phenyl-phenyl)-4-(4-(2-pyrrolidinoethoxy)phenyl)chromane | OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCCC1 | C33H33NO3
